US07709645B2
2,2-Dimethyl-propionic acid 5-bromo-pyrrolo[2,3-b]pyridin-1-ylmethyl ester (4.09 g, 13.14 mmol) was dissolved in N,N-dimethylformamide (4 ml), and phosphorus oxy-chloride (1.33 ml) was added. The reaction mixture was stirred for 18 hours at 50° C. The reaction was quenched with saturated, aqueous sodium bicarbonate, and the mixture was extracted with dichloromethane. The organic layer was dried over sodium sulfate, concentrated, and purified by flash chromatography (0-100% (ethyl acetate in hexanes) to give 3.65 g (82%) of 2,2-dimethyl-propionic acid 5-bromo-3-formyl-pyrrolo[2,3-b]pyridin-1-ylmethyl ester. MS: m/z 338.0+340.0 (M+H+).

reactant | 2,2-Dimethyl-propionic acid 5-bromo-pyrrolo[2,3-b]pyridin-1-ylmethyl ester | 13.14 mmol, 4.09 g | BrC=1C=C2C(=NC1)N(C=C2)COC(C(C)(C)C)=O | C13H15BrN2O2
reactant | phosphorus oxy-chloride | 1.33 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-propionic acid 5-bromo-3-formyl-pyrrolo[2,3-b]pyridin-1-ylmethyl ester | 3.65 g, 82% | BrC=1C=C2C(=NC1)N(C=C2C=O)COC(C(C)(C)C)=O | C14H15BrN2O3
